US07816395B2
c) Methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(ethylamino)butanoate, hydrochloride
The 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(ethylamino)butanoate from the previous step was dissolved in a mixture of MeOH (150 mL) and 4N HCl/dioxane (20 mL) and heated to 60° C. for 3 h. The solvents were concentrated to a slurry, Et2O (200 mL) was added, the solid filtered, washed well with Et2O to give the titled compound (4.0 g).

reactant | 1,1-dimethylethyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(ethylamino)butanoate | ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC(C)(C)C)CNCC | C17H24ClN3O2
solvent | MeOH | 150 mL | CO | CH4O
solvent | HCl dioxane | 4N, 20 mL | Cl.O1CCOCC1
product | Methyl (3S)-3-[(3-chloro-4-cyanophenyl)amino]-4-(ethylamino)butanoate, hydrochloride | 4.0 g | Cl.ClC=1C=C(C=CC1C#N)N[C@@H](CC(=O)OC)CNCC | InChI=1S/C14H18ClN3O2.ClH/c1-3-17-9-12(7-14(19)20-2)18-11-5-4-10(8-16)13(15)6-11;/h4-6,12,17-18H,3,7,9H2,1-2H3;1H/t12-;/m0./s1
